US06025387
5,7-dihydroxy-3',4'-dimethoxy flavone
7-benzyloxy-3',4',5-trimethoxy flavone (565 mg, 1.35 mmol) was dissolved in 17 mL of methylenechloride, and then 1M of boron trichloride (3.79 mL, 3 equivalents) was added at temperature of 0° C. Then the reaction mixture was stirred for 30 minutes. When aqueous sodium acetate solution (5 mL) was added to the resultant reaction mixture, the product was obtained as a yellow crystal. The product was triturated with hexane and filtered to give the titled product (271 mg, 64%).

reactant | 7-benzyloxy-3',4',5-trimethoxy flavone | 1.35 mmol, 565 mg | C(C1=CC=CC=C1)OC1=CC(=C2C(C=C(OC2=C1)C1=CC(=C(C=C1)OC)OC)=O)OC | C25H22O6
reactant | boron trichloride | 1M, 3.79 mL, 3 equivalents | B(Cl)(Cl)Cl | BCl3
reactant | sodium acetate | 5 mL | C(C)(=O)[O-].[Na+]
solvent | methylenechloride | 17 mL | C(Cl)Cl | CH2Cl2
product | 5,7-dihydroxy-3',4'-dimethoxy flavone | 271 mg, 64% | OC1=C2C(C=C(OC2=CC(=C1)O)C1=CC(=C(C=C1)OC)OC)=O | C17H14O6
